US05026862
70 ml of acetyl chloride were added with stirring to a mixture of 90 ml of methylal and 2.4 ml of methanol and the mixture was allowed to stand for several hours to obtain chloromethyl methyl ether. 6.7 g of lithium hydride were added over 30 minutes at about 15°±2° C. to a solution of 110 g of the lactone of (1R,cis) 2,2-dimethyl-3-dihydroxymethyl-cyclopropane-carboxylic acid in 500 ml of tetrahydrofuran and after stirring the mixture for 30 minutes, the mixture containing chloroethyl methyl ether was added thereto. The mixture was stirred at 20° C. for four hours and was poured into aqueous sodium bircarbonate solution. The mixture was extracted with isopropyl ether and the organic phase was washed with water, dried and evaporated to dryness under reduced pressure to obtain 117 g of raw product which was distilled to obtain methoxymethyl (1R,cis) 2,2-dimethyl-3-formyl-cyclopropane-carboxylate with a boiling point of 65° to 70° C. at 5×10 -2 mm Hg.

reactant | lithium hydride | 6.7 g | [H-].[Li+]
reactant | (1R,cis) 2,2-dimethyl-3-dihydroxymethyl-cyclopropane-carboxylic acid | CC1([C@@H]([C@@H]1C(O)O)C(=O)O)C | C7H12O4
reactant | chloroethyl methyl ether | COCCCl | C3H7ClO
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | methoxymethyl (1R,cis) 2,2-dimethyl-3-formyl-cyclopropane-carboxylate | CC1([C@@H]([C@@H]1C=O)C(=O)OCOC)C | C9H14O4
